US07973160B2
6-Methoxy-4-(4-nitrophenoxy)quinolin-7-ol
After adding trifluoroacetic acid (30 ml) and thioanisole (3 ml) to 7-benzyloxy-6-methoxy-4-(4-nitrophenoxy)quinoline (4.0 g), the mixture was heated and stirred at 70° C. for 2 hours.

reactant | thioanisole | 3 ml | C1(=CC=CC=C1)SC | C7H8S
reactant | 7-benzyloxy-6-methoxy-4-(4-nitrophenoxy)quinoline | 4.0 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)[N+](=O)[O-])OC | C23H18N2O5
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-Methoxy-4-(4-nitrophenoxy)quinolin-7-ol | COC=1C=C2C(=CC=NC2=CC1O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H12N2O5
